US08580790B2
Step a) 6-(2-Benzylaminoethylamino)nicotinic acid methyl ester
4.6 g of methyl 6-chloronicotinate and 40.5 ml of N-benzylethylenediamine are heated at 135° C. for 6 hours in a round-bottomed flask. The resulting product is poured into water and extraction is carried out with ethyl acetate. The resulting product is dried and evaporated under vacuum; the crude product thus obtained is purified by flash chromatography.

reactant | methyl 6-chloronicotinate | 4.6 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | N-benzylethylenediamine | 40.5 ml | C(C1=CC=CC=C1)NCCN | C9H14N2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(2-Benzylaminoethylamino)nicotinic acid methyl ester | COC(C1=CN=C(C=C1)NCCNCC1=CC=CC=C1)=O | C16H19N3O2
